US06566367B2
Dissolve 2-nitro-4-trifluoromethylsulfonyl-phenylamine (530 mg) in EtOH (50 mL) and hydrogenate over Pd/C (10%) for 6 hours. Filter the mixture and concentrate the filtrate in vacuo to obtain 4-trifluoromethylsulfonyl-benzene-1,2-diamine.

reactant | 2-nitro-4-trifluoromethylsulfonyl-phenylamine | 530 mg | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)N | C7H5F3N2O4S
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-trifluoromethylsulfonyl-benzene-1,2-diamine | FC(S(=O)(=O)C=1C=C(C(=CC1)N)N)(F)F | C7H7F3N2O2S
